US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (218 mg, 0.68 mmol), (prepared as described for the starting material in Example 9), 5-hydroxy-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.75 mmol) and potassium carbonate (280 mg, 2.0 mmol) in DMF (4 ml) was stirred at 95° C. for 6 hours and allowed to cool to ambient temperature. The reaction mixture was treated with 1.0 N aqueous sodium hydroxide solution and allowed to stir at ambient temperature for a few minutes. The resulting precipitate was filtered off, washed with water and air dried to give a crude product which was purified by column chromatography, eluting with dichloromethane/methanol/880 ammonia (100/8/1). The relevant fractions were combined and evaporated ‘in vacuo’ to give a white solid. This was recolumned using dichloromethane/methanol (4/1) solvent to give a white solid which was triturated with acetone, filtered and dried to give 6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)-4-(1H-pyrrolo[2,3-b]pyridin-5-yloxy)quinazoline (50 mg, 18%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 0.68 mmol, 218 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-hydroxy-1H-pyrrolo[2,3-b]pyridine | 0.75 mmol, 100 mg | OC=1C=C2C(=NC1)NC=C2 | C7H6N2O
reactant | potassium carbonate | 2.0 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | 6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)-4-(1H-pyrrolo[2,3-b]pyridin-5-yloxy)quinazoline | 50 mg, 18% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)OC=1C=C2C(=NC1)NC=C2 | C23H25N5O3
